* File: XOR.pex.netlist
* Created: Tue May 31 20:50:42 2016
* Program "Calibre xRC"
* Version "v2012.2_26.20"
* 
.include "XOR.pex.netlist.pex"
.subckt XOR  Y A B GND VDD
* 
* VDD	VDD
* GND	GND
* B	B
* A	A
* Y	Y
M0 N_noxref_2_M0_d N_1_M0_g N_GND_M0_s N_GND_M0_b N_18 L=1.8e-07 W=5e-07
+ AD=1.275e-13 AS=2.45e-13 PD=5.1e-07 PS=1.48e-06
M1 N_Y_M1_d N_A_M1_g N_noxref_2_M1_s N_GND_M0_b N_18 L=1.8e-07 W=5e-07
+ AD=1.275e-13 AS=1.275e-13 PD=5.1e-07 PS=5.1e-07
M2 N_noxref_2_M2_d N_6_M2_g N_Y_M2_s N_GND_M0_b N_18 L=1.8e-07 W=5e-07
+ AD=1.275e-13 AS=1.275e-13 PD=5.1e-07 PS=5.1e-07
M3 N_GND_M3_d N_B_M3_g N_noxref_2_M3_s N_GND_M0_b N_18 L=1.8e-07 W=5e-07
+ AD=2.45e-13 AS=1.275e-13 PD=1.48e-06 PS=5.1e-07
M4 N_GND_M4_d N_B_M4_g N_6_M4_s N_GND_M0_b N_18 L=1.8e-07 W=5e-07 AD=1.275e-13
+ AS=2.45e-13 PD=5.1e-07 PS=1.48e-06
M5 N_1_M5_d N_A_M5_g N_GND_M5_s N_GND_M0_b N_18 L=1.8e-07 W=5e-07 AD=2.45e-13
+ AS=1.275e-13 PD=1.48e-06 PS=5.1e-07
M6 N_VDD_M6_d N_1_M6_g N_noxref_4_M6_s N_VDD_M6_b P_18 L=1.8e-07 W=1e-06
+ AD=2.55e-13 AS=4.9e-13 PD=5.1e-07 PS=1.98e-06
M7 N_noxref_7_M7_d N_A_M7_g N_VDD_M7_s N_VDD_M6_b P_18 L=1.8e-07 W=1e-06
+ AD=2.55e-13 AS=2.55e-13 PD=5.1e-07 PS=5.1e-07
M8 N_Y_M8_d N_6_M8_g N_noxref_7_M8_s N_VDD_M6_b P_18 L=1.8e-07 W=1e-06
+ AD=2.55e-13 AS=2.55e-13 PD=5.1e-07 PS=5.1e-07
M9 N_noxref_4_M9_d N_B_M9_g N_Y_M9_s N_VDD_M6_b P_18 L=1.8e-07 W=1e-06
+ AD=4.9e-13 AS=2.55e-13 PD=1.98e-06 PS=5.1e-07
M10 N_VDD_M10_d N_B_M10_g N_6_M10_s N_VDD_M6_b P_18 L=1.8e-07 W=1e-06
+ AD=2.55e-13 AS=4.9e-13 PD=5.1e-07 PS=1.98e-06
M11 N_1_M11_d N_A_M11_g N_VDD_M11_s N_VDD_M6_b P_18 L=1.8e-07 W=1e-06 AD=4.9e-13
+ AS=2.55e-13 PD=1.98e-06 PS=5.1e-07
*
.include "XOR.pex.netlist.XOR.pxi"
*
.ends
*
*


.GLOBAL GND VDD
VGND GND 0v DC 0v
VVDD VDD GND DC 1.8v
V1 A GND PULSE ( 0V 1.8V 0u 0u 0u 5u 10u )
V2 B GND PULSE ( 0V 1.8V 0u 0u 0u 10u 20u )

XXOR A B Y  GND VDD XOR

.protect
.lib 'cic018.l' TT
.unprotect
.options post
.tran 0.01u 140u
.end


